US09023760B2
Step 4: Preparation of 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (title compound P2.2)
To a solution of 1-methoxy-4-{methyl-[2-(2,4,6-trimethyl-phenyl)-acetyl]-amino}-piperidine-4-carboxylic acid methyl ester (85.0 g, 234.5 mmol) in dimethylformamide (800 ml) at 0° C. was added sodium methoxide (38.0 g, 703.5 mmol) in four portions and stirring continued at 0° C. for 30 minutes, then at room temperature for 1 hour. The reaction mixture was poured on ice and saturated aqueous ammonium chloride, acidified to pH 5-6 with concentrated HCl and thoroughly extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over sodium sulfate, concentrated and the residue dried in vacuo. Yield: 72.7 g of 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (title compound P2.2) as a solid.

reactant | 1-methoxy-4-{methyl-[2-(2,4,6-trimethyl-phenyl)-acetyl]-amino}-piperidine-4-carboxylic acid methyl ester | 234.5 mmol, 85.0 g | COC(=O)C1(CCN(CC1)OC)N(C(CC1=C(C=C(C=C1C)C)C)=O)C | C20H30N2O4
reactant | sodium methoxide | 703.5 mmol, 38.0 g | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | OC1=C(C(N(C12CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C)C | C19H26N2O3
